US05994368
To a suspension of 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene (42 g) and ammonium chloride (4.2 g) in ethanol (378 ml)-water (42 ml) was added iron (7.0 g), and the mixture was refluxed for 6 hours, during which iron (7.0 g) was added thereto twice. Insoluble materials were filtered off, and the filtrate was concentrated. To the residue was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to give 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethylbenzene (42.8 g) as pale yellow oil.

reactant | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene | 42 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C | C25H29NO3Si
reactant | ammonium chloride | 4.2 g | [Cl-].[NH4+]
reactant | water | 42 ml | O | H2O
solvent | ethanol | 378 ml | C(C)O | C2H6O
catalyst | iron | 7.0 g | [Fe] | Fe
catalyst | iron | 7.0 g | [Fe] | Fe
product | 3-amino-1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethylbenzene | 42.8 g | NC=1C(=C(C(=CC1)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C25H31NOSi
